US05516788
cis-4b,5,9b,10-Tetrahydro-6-isopropylindeno[1,2-b]indole
To a solution of 4.95 g (0.020 mol) of 5.10-dihydro-6-isopropylindeno[1,2-b]indole and 8.08 g (0.080 mol) of morpholino borane in 25 ml of dioxane was added dropwise 7 ml of conc. hydrochloric acid. The mixture was refluxed for 30 minutes, cooled to room temperature whereupon 20 ml of 6M hydrochloric acid was added. The mixture was refluxed for 15. After cooling the mixture was alkalinized by addition of aqueous sodium hydroxide and extracted three times with ether. Drying (MgSO4) and evaporation gave a crude product which was purified by column chromatography on silica gel using methylene chloride/light petroleum (20/80) as eluent. Thus 3.53 g (71%) of the title compound was obtained. 1H NMR(CDCl3) δ: 1.19 (3H,d), 1.29 (3H, d), 2.84 (1 h,dq), 3,26 (1H,dd), 3.56 (1H,dd), 4,24 (1H,td), 5.31 (1H,d), 6.79 (1H,dd), 6.97 (1H, d), 7.05-7.09 (1H,m), 7,28-7,21 (3H,m), 7.36-7,40 (1H,m).

reactant | 5.10-dihydro-6-isopropylindeno[1,2-b]indole | 0.020 mol, 4.95 g | C(C)(C)C1=CC=CC=2C3=C(NC12)C1=CC=CC=C1C3 | C18H17N
reactant | morpholino borane | 0.080 mol, 8.08 g | O1CCN(CC1)B | C4H10BNO
reactant | hydrochloric acid | 7 ml | Cl | ClH
reactant | hydrochloric acid | 6M, 20 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
product | cis-4b,5,9b,10-Tetrahydro-6-isopropylindeno[1,2-b]indole | 3.53 g, 71% | C(C)(C)C1=CC=CC=2[C@@H]3[C@H](NC12)C1=CC=CC=C1C3 | C18H19N
